US08791102B2
A flask was charged with (2S,4R)-1-(2-(1H-1,2,4-triazol-1-yl)acetyl)-4-cyano-N-(4-(4-fluorophenoxy)phenyl)pyrrolidine-2-carboxamide (260 mg, 0.599 mmol), prepared as in Reference 11, methanol (4 mL), hydrogen chloride (4N in dioxane, 16 mmol) and palladium on carbon (10%, 100 mg) and the mixture was placed under a hydrogen atmosphere (balloon). The mixture was stirred for 18 hours at ambient temperature, filtered and concentrated to give crude (2S,4S)-1-(2-(1H-1,2,4-triazol-1-yl)acetyl)-4-aminomethyl-N-(4-(4-fluorophenoxy)phenyl)pyrrolidine-2-carboxamide hydrochloride salt (0.247 g, 0.564 mmol).

reactant | (2S,4R)-1-(2-(1H-1,2,4-triazol-1-yl)acetyl)-4-cyano-N-(4-(4-fluorophenoxy)phenyl)pyrrolidine-2-carboxamide | 0.599 mmol, 260 mg | N1(N=CN=C1)CC(=O)N1[C@@H](C[C@H](C1)C#N)C(=O)NC1=CC=C(C=C1)OC1=CC=C(C=C1)F | C22H19FN6O3
reactant | hydrogen chloride | 16 mmol, 4N | Cl | ClH
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | methanol | 4 mL | CO | CH4O
product | (2S,4S)-1-(2-(1H-1,2,4-triazol-1-yl)acetyl)-4-aminomethyl-N-(4-(4-fluorophenoxy)phenyl)pyrrolidine-2-carboxamide hydrochloride salt | 0.564 mmol, 0.247 g | Cl.N1(N=CN=C1)CC(=O)N1[C@@H](C[C@H](C1)CN)C(=O)NC1=CC=C(C=C1)OC1=CC=C(C=C1)F | InChI=1S/C22H23FN6O3.ClH/c23-16-1-5-18(6-2-16)32-19-7-3-17(4-8-19)27-22(31)20-9-15(10-24)11-29(20)21(30)12-28-14-25-13-26-28;/h1-8,13-15,20H,9-12,24H2,(H,27,31);1H/t15-,20-;/m0./s1
